US04521421
A reaction mixture was prepared from 4.7 g. of trans-(±)-1-n-propyl-6-oxo-7-dimethylaminomethylenedecahydroquinoline and 2.5 g. of 1,1-dimethylguanidinehydrochloride in 50 ml. of anhydrous ethanol. The reaction mixture was heated overnight under a nitrogen atmosphere, and was then cooled and the volatile constituents removed in vacuo. The resulting residue was dissolved in ethyl acetate and the ethyl acetate solution contacted with an excess of 10% aqueous sodium hydroxide. Trans-(±)-2-dimethylamino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline formed in the above reaction, being insoluble in the basic layer, remained in the ethyl acetate layer. The aqueous layer was separated and the ethyl acetate layer extracted once with water and once with saturated aqueous sodium chloride. The ethyl acetate layer was dried and the ethyl acetate removed in vacuo to leave 0.75 g. of an orange oil. The oily residue was chromatographed over florisil using hexane containing increasing amounts (1-50%) of ethyl acetate as the eluant. Fractions shown by TLC to contain the desired trans-(±)-2-dimethylamino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline were combined and the solvent removed from the combined fractions in vacuo. The resulting residue was dissolved in ethanol and gaseous hydrogen chloride passed into the solution thus forming the corresponding dihydrochloride salt. The ethanol was removed therefrom in vacuo and the dihydrochloride salt crystallized from a methanol ethyl acetate solvent mixture to yield 0.170 g. of a white solid having a molecular ion at 274.

reactant | trans-(±)-1-n-propyl-6-oxo-7-dimethylaminomethylenedecahydroquinoline | C(CC)N1CCC[C@@H]2CC(C(C[C@@H]12)=CN(C)C)=O | C15H26N2O
reactant | 1,1-dimethylguanidinehydrochloride | Cl.CN(C(=N)N)C
solvent | ethanol | C(C)O | C2H6O
product | Trans-(±)-2-dimethylamino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline | CN(C=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1)C | C16H26N4
